M432974939 n1 vinp ntail 0 nch W=2u L=0.18u
M759295334 vout vinn ntail 0 nch W=2u L=0.18u
M373133575 ntail vbias_n 0 0 nch W=1u L=0.5u
M724015683 vout n1 VDD VDD pch W=4u L=0.18u
M841448589 n1 n1 VDD VDD pch W=4u L=0.18u
VDD VDD 0 1.8
C270171221 vout 0 1p

